US08541404B2
A mixture of N-(2-amino-4-bromophenyl)-2-chloroacetamide (4.5 g, 17.0 mmol), sodium iodide (101 mg, 2.0 mmol) and sodium carbonate (3.6 g, 33.8 mmol) in 300 ml acetonitrile was refluxed overnight under an atmosphere of nitrogen. Then the acetonitrile was removed under vacuum. The resulting solid was suspended in 150 ml water acidified to pH 5-6 with 1 N HCl. Extraction with ethyl acetate, washing of the combined organic layers with brine, drying over MgSO4, removing the solvent under reduced pressure and purification of the crude product by flash chromatography on silica gel (petroleum ether/ethyl acetate, 1.5/1) yielded 6-bromo-3,4-dihydroquinoxalin-2(1H)-one (1.3 g, 5.8 mmol, 34%) as yellow solid.

reactant | N-(2-amino-4-bromophenyl)-2-chloroacetamide | 17.0 mmol, 4.5 g | NC1=C(C=CC(=C1)Br)NC(CCl)=O | C8H8BrClN2O
reactant | sodium iodide | 2.0 mmol, 101 mg | [I-].[Na+]
reactant | sodium carbonate | 33.8 mmol, 3.6 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | acetonitrile | 300 ml | C(C)#N | C2H3N
product | 6-bromo-3,4-dihydroquinoxalin-2(1H)-one | 5.8 mmol, 1.3 g, 34% | BrC=1C=C2NCC(NC2=CC1)=O | C8H7BrN2O
